US04597902
N-[2-[(4-Chlorophenyl)thio]ethyl]-1-methylethanamine hydrochloride
A solution of 24.0 g (0.116 mole) chloroethyl-p-chlorophenyl sulfide in 100 ml of isopropylamine was agitated overnight in a stainless steel bomb at 80° C. The reaction mixture was then stripped to dryness and the residue partitioned between water and chloroform. The chloroform layer was extracted with 1N sulfuric acid. Three layers were obtained: a water phase (lower), a chloroform phase (upper) and an intermediate phase. The aqueous and intermediate phases were combined, made alkaline and extracted with chloroform. Evaporation yielded an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride and the resulting hydrochloride salt was recrystallized from methanol-diethyl ether to give 2.23 g (22.6%) of white crystalline product, m.p. 126°-128° C.

reactant | chloroethyl-p-chlorophenyl sulfide | 0.116 mole, 24.0 g | ClCCC1=C(C=CC(=C1)Cl)SC1=C(C=C(C=C1)Cl)CCCl | C16H14Cl4S
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | isopropylamine | 100 ml | C(C)(C)N | C3H9N
product | N-[2-[(4-Chlorophenyl)thio]ethyl]-1-methylethanamine hydrochloride | Cl.ClC1=CC=C(C=C1)SCCNC(C)C | InChI=1S/C11H16ClNS.ClH/c1-9(2)13-7-8-14-11-5-3-10(12)4-6-11;/h3-6,9,13H,7-8H2,1-2H3;1H
